US04128716
(a) 4-(Ethoxy)pyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester
5.5 g. of 4-chloropyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester is heated for two hours with 10 ml. of a 2 molar sodium ethylate solution. The hot reaction solution is filtered and, upon cooling, 4-ethoxypyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester crystallizes in the form of white needles. The product is recrystallized from ethanol to obtain 3.4 g. of white crystals, m.p. 88°-90°.

reactant | 4-chloropyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester | ClC=1C=2N(C3=CC=CC=C3N1)N=CC2C(=O)OCC | C13H10ClN3O2
reactant | sodium ethylate solution | 2 molar | CC[O-].[Na+]
product | 4-(Ethoxy)pyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester | C(C)OC=1C=2N(C3=CC=CC=C3N1)N=CC2C(=O)OCC | C15H15N3O3
